US09227972B2
Step B: (6S)-3-(1,1-Difluoro-2-(((3S,5S,6R)-6-methyl-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)piperidin-3-yl)amino)ethyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
HCl gas was bubbled into a solution of (6S)-3-(1,1-difluoro-2-(((3S,5S,6R)-6-methyl-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)piperidin-3-yl)amino)ethyl)-1′-((2-(trimethylsilyl)ethoxy)methyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (0.012 g, 0.017 mmol) in MeOH (3 mL) cooled to 0° C. until saturated. The resulting mixture was stirred at 0° C. for 1 h and then concentrated to dryness in vacuo. To a solution of this crude mixture in MeOH (5 mL) was added ammonium hydroxide (0.047 mL, 0.335 mmol), and the reaction was stirred at ambient temperature for 30 min. The reaction was concentrated to dryness in vacuo. The crude product was purified by reverse-phase HPLC, eluting with 10% acetonitrile in water (0.1% TFA used as a modifier) initially, grading to 80% acetonitrile in water, to give the title compound. MS: m/z=586.2 (M+1). 1H NMR (500 MHz, CDCl3) δ 8.77 (s, 1H), 8.04 (d, 1H, J=7.0 Hz), 8.00 (s, 1H), 7.90 (bs, 1H), 7.61 (d, 1H, J=7.0 Hz), 7.40-7.29 (m, 3H), 7.26-7.10 (m, 3H), 4.87-4.81 (m, 1H), 4.07 (dd, 1H, J=11.4, 6.8 Hz), 3.98 (s, 2H), 3.90-3.75 (m, 3H), 3.73 (d, 1H, J=17.6 Hz), 3.57-3.48 (m, 2H), 3.38 (d, 1H, J=17.1 Hz), 3.35-3.27 (m, 1H), 2.63 (dt, 1H, J=12.5 Hz), 2.49-2.47 (m, 1H), 0.98 (d, 3H, J=6.5 Hz).

reactant | HCl | Cl | ClH
reactant | (6S)-3-(1,1-difluoro-2-(((3S,5S,6R)-6-methyl-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)piperidin-3-yl)amino)ethyl)-1′-((2-(trimethylsilyl)ethoxy)methyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.017 mmol, 0.012 g | FC(CN[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(F)(F)F)=O)(F)C=1C=C2C(=NC1)C[C@@]1(C(N(C3=NC=CC=C31)COCC[Si](C)(C)C)=O)C2 | C36H42F5N5O3Si
reactant | ammonium hydroxide | 0.335 mmol, 0.047 mL | [OH-].[NH4+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | (6S)-3-(1,1-Difluoro-2-(((3S,5S,6R)-6-methyl-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)piperidin-3-yl)amino)ethyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | FC(CN[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(F)(F)F)=O)(F)C=1C=C2C(=NC1)C[C@@]1(C(NC3=NC=CC=C31)=O)C2 | C30H28F5N5O2
